US05374723
To a mixture comprising 20 g of 2-hydroxycarbazole, 3 g of benzyltriethyl ammonium chloride, 70 ml of a 50% aqueous solution of sodium hydroxide and 10 ml of benzene was added dropwise 25 g of methyl iodide. After the dropwise addition, the mixture was stirred for 2 hours. The mixture was poured into hot water and the mixture was allowed to stand at room temperature overnight. The precipitated solid was recovered by filtration, washed with water and dried to obtain a yellowish brown solid of 2-hydroxy-9-methylcarbazole.

reactant | 2-hydroxycarbazole | 20 g | OC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H9NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | methyl iodide | 25 g | CI | CH3I
catalyst | benzyltriethyl ammonium chloride | 3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 2-hydroxy-9-methylcarbazole | OC1=CC=2N(C3=CC=CC=C3C2C=C1)C | C13H11NO
